US06544985B2
A solution of (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J6) (0.32 g) and 3-oxo-3-[3-(2-bromo-1,1-dimethoxy-ethyl)-phenyl]-propionic acid tert-butyl ester (0.43 g) (Example K28) in toluene (3 mL) was heated to 100° C. for 2 h. The solvent was evaporated in vacuum and the crude product was purified by chromatography on silica gel using AcOEt/Hexan(1:3) as eluent. A solution of the purified material (0.57 g) in CH2Cl2/TFA (1:1, 7 mL) was stirred at 20° C. for 15 min and then evaporated. The residual oil was dissolved in AcOEt and the solution was washed with IN HCl and with brine, dried and evaporated to give crude 4-(3-bromoacetyl-phenyl)-7-dimethylamino-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one (0.22 g) as light-brown solid.

reactant | (2-amino-5-dimethylamino-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.32 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)N)=O | C14H20F3N3O2
reactant | 3-oxo-3-[3-(2-bromo-1,1-dimethoxy-ethyl)-phenyl]-propionic acid tert-butyl ester | 0.43 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C(CBr)(OC)OC)=O)=O | C17H23BrO5
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(3-bromoacetyl-phenyl)-7-dimethylamino-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 0.22 g | BrCC(=O)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)N(C)C)C(F)(F)F | C20H17BrF3N3O2
